US09382238B2
A mixture of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide (100 mg, 0.170 mmol) and TFA (10% in DCM, 100 mL) was stirred at 25° C. for 2 h. The mixture was then concentrated. The crude material was purified by preparative HPLC (MeCN/H2O as eluants, acid condition) to give a white solid of 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide (28.35 mg, 0.060 mmol, 36% yield): 1H NMR (400 MHz, CD3OD) δ 7.45-7.30 (m, 4H), 7.25 (d, J=1.6 Hz, 1H), 6.36 (s, 1H), 4.12 (q, J=6.8 Hz, 2H), 3.82 (s, 2H), 1.52 (s, 6H), 1.46 (t, J=6.8 Hz, 3H); ES-LCMS m/z 468 (M+H).

reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide | 0.170 mmol, 100 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=NO1)C(C(F)(F)F)(C)C)F | C30H29F4N3O5
solvent | TFA | 100 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide | 0.060 mmol, 28.35 mg, 36% yield | C(C)OC1=CC(=CNC1=O)C1=CC(=C(C=C1)CC(=O)NC1=CC(=NO1)C(C(F)(F)F)(C)C)F | C22H21F4N3O4
